US07071207B2
Preparation of ethyl 2,4-dioxo-1,1′-bipiperidine-3-carboxylate
To a solution of methyl N-(3-ethoxy-3-oxopropanoyl)-N-(1-piperidinyl)-β-alaninate (43 g, 143 mmol) in a mixture of THF (2.26 L) and DMF (1.00 L) was added Cs2CO3 (140 g, 430 mmol). The resulting mixture was heated at reflux (77° C.) for 48 h. The cooled reaction was filtered, and the filtrate was evaporated. The filtrate residue and filtered solid were combined and purified by flash chromatography using 7:3 CH2Cl2/MeOH as eluant, to give 11.36 g of partially pure title material. LC-MS m/z 269.19 (MH+), retention time 2.20 min (method 2).

reactant | methyl N-(3-ethoxy-3-oxopropanoyl)-N-(1-piperidinyl)-β-alaninate | 143 mmol, 43 g | C(C)OC(CC(=O)N(CCC(=O)OC)N1CCCCC1)=O | C14H24N2O5
reactant | Cs2CO3 | 430 mmol, 140 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 2.26 L | C1CCOC1 | C4H8O
solvent | DMF | 1.00 L | CN(C)C=O | C3H7NO
product | ethyl 2,4-dioxo-1,1′-bipiperidine-3-carboxylate | O=C1N(CCC(C1C(=O)OCC)=O)N1CCCCC1 | C13H20N2O4
